US09079866B2
4-({[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]methyl}sulfonyl)piperazin-2-one formic acid salt
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 4-((2-bromobenzyl)sulfonyl)piperazin-2-one. MS (ESI): mass calcd. for C21H20FN5O3S, 441.13; m/z found, 441.9 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.41 (s, 1H), 8.08 (d, J=1.3, 1H), 7.96 (m, 1H), 7.70-7.62 (m, 1H), 7.52-7.28 (m, 5H), 4.48 (s, 2H), 3.63 (s, 2H), 3.25 (s, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 4-((2-bromobenzyl)sulfonyl)piperazin-2-one | BrC1=C(CS(=O)(=O)N2CC(NCC2)=O)C=CC=C1 | C11H13BrN2O3S
product | 4-({[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]methyl}sulfonyl)piperazin-2-one formic acid salt | C(=O)O.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)CS(=O)(=O)N1CC(NCC1)=O)F | InChI=1S/C21H20FN5O3S.CH2O2/c22-18-9-14(5-6-17(18)19-10-26-20(23)11-25-19)16-4-2-1-3-15(16)13-31(29,30)27-8-7-24-21(28)12-27;2-1-3/h1-6,9-11H,7-8,12-13H2,(H2,23,26)(H,24,28);1H,(H,2,3)
